US04200641
A mixture of 13 parts of 1,3-dihydro-1-[3-(1-piperazinyl)propyl]-2H-benzimidazol-2-one, 12.4 parts of 1,1'-(bromomethylene)bis[benzene], 6.6 parts of sodium carbonate and 200 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. After cooling to room temperature, water is added and the layers are separated. The organic layer is dried, filtered and evaporated. The residue is crystallized from a mixture of 2,2'-oxybispropane and a small amount of 2-propanol, yielding 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 153° C.

reactant | 1,3-dihydro-1-[3-(1-piperazinyl)propyl]-2H-benzimidazol-2-one | N1(CCNCC1)CCCN1C(NC2=C1C=CC=C2)=O | C14H20N4O
reactant | 1,1'-(bromomethylene)bis[benzene] | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=O)C2=CC=CC=C2 | C27H30N4O
